US08975409B2
tert-butyl 4-hydroxy-4-isobutyl-2-methylpiperidine-1-carboxylate
Under an argon atmosphere, in a 50-mL pear-shaped evaporating flask was weighed a solution of lanthanum chloride lithium chloride complex in THF (15.6 mL) and cooled to 0° C. To the solution was added dropwise a solution of isobutylmagnesium chloride in THF (3.5 mL) and stirred at 0° C. for 3 hours. A solution of tert-butyl 2-methyl-4-oxopiperidine-1-carboxylate (1 g) in THF (2.0 mL) was further added dropwise. The reaction solution was stirred at 0° C. for 1 hour, heated to 25° C., poured to hydrochloric acid and extracted with ethyl acetate. The organic layer was washed with water and a saturated sodium chloride solution and dried over anhydrous magnesium sulphate. The filtrate was concentrated and the resulting residue was purified by silica gel chromatography (hexane:ethyl acetate=9:1→3:1) to give the titled compound (450 mg) having the following physical properties.

reactant | isobutylmagnesium chloride | C(C(C)C)[Mg]Cl
reactant | tert-butyl 2-methyl-4-oxopiperidine-1-carboxylate | 1 g | CC1N(CCC(C1)=O)C(=O)OC(C)(C)C | C11H19NO3
reactant | hydrochloric acid | Cl | ClH
solvent | THF | 15.6 mL | C1CCOC1 | C4H8O
solvent | THF | 3.5 mL | C1CCOC1 | C4H8O
solvent | THF | 2.0 mL | C1CCOC1 | C4H8O
product | tert-butyl 4-hydroxy-4-isobutyl-2-methylpiperidine-1-carboxylate | 450 mg | OC1(CC(N(CC1)C(=O)OC(C)(C)C)C)CC(C)C | C15H29NO3
